US07893061B2
A flask was charged with 5-iodopyrimidin-2-amine (25.0 g, 110 mmol), acetonitrile (900 ml, 110 mmol), trimethylsilylacetylene (35 ml, 241 mmol), triethylamine (93 ml, 658 mmol), Pd(PPh3)4Cl2 (3.9 g, 5.5 mmol) and finally copper(I) iodide (1.1 g, 5.5 mmol). The flask was put under vacuum then filled with argon and stirred at RT overnight using a mechanical stirrer. The solvent was removed under vacuum, the residue taken up in methanol (600 ml) and potassium carbonate (152 g, 1097 mmol) was added. The mixture was stirred at RT using mechanical stirring for 2 hrs. Activated carbon (˜50 mL) was added to the reaction and stirring continued for 15 min. The reaction mixture was then filtered through a plug of celite and the filtrate was concentrated to a volume of ˜400 mL and the precipitate was filtered. The filtrate was concentrated down to a thick paste which was slurried in ˜150 mL of 10% MeOH/H2O for 20 min at RT. The solids were then filtered off to afford 5-ethynylpyrimidin-2-amine.

reactant | 5-iodopyrimidin-2-amine | 110 mmol, 25.0 g | IC=1C=NC(=NC1)N | C4H4IN3
reactant | acetonitrile | 110 mmol, 900 ml | C(C)#N | C2H3N
reactant | trimethylsilylacetylene | 241 mmol, 35 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 658 mmol, 93 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 1097 mmol, 152 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 5.5 mmol, 1.1 g | [Cu]I
product | 5-ethynylpyrimidin-2-amine | C(#C)C=1C=NC(=NC1)N | C6H5N3
